US06127538
Synthesis of 2,4-diamino-6-(5-hydroxy-3-oxapentylamino)-1,3,5-triazine
14.5 g (0.1 mol) of 2,4-diamino-6-chloro-1,3,5-triazine and 11.6 g (0.11 mol) of 2-(2'-aminoethoxy)ethanol were added to 60 mL of water and heated to 100° C. while stirring the mixture as a suspension. After continuing the reaction for 2 hours, an aqueous solution of 4.0 g (0.1 mol) of sodium hydroxide in 20 mL of water was dropwise added over 1 hour while maintaining the reaction temperature, and the reaction was continued for further 3 hours at the same temperature. The homogeneous reaction mixture thus obtained was gradually cooled and allowed to stand at room temperature for one night. The crystals precipitated were collected by filtration, washed with a small amount of water, and recrystallized from water to obtain 13.5 g of the intended compound, 2,4-diamino-6-(5-hydroxy-3-oxapentylamino)-1,3,5-triazine as crystals. Yield 62%.

reactant | 2,4-diamino-6-chloro-1,3,5-triazine | 0.1 mol, 14.5 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | 2-(2'-aminoethoxy)ethanol | 0.11 mol, 11.6 g | NCCOCCO | C4H11NO2
reactant | sodium hydroxide | 0.1 mol, 4.0 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | water | 60 mL | O | H2O
product | 2,4-diamino-6-(5-hydroxy-3-oxapentylamino)-1,3,5-triazine | 13.5 g, Yield 62% | NC1=NC(=NC(=N1)N)NCCOCCO | C7H14N6O2
